US07067179B1
The thus obtained 1-fluoro-7-propyl-9,10-dihydrophenanthren-2-ol was dissolved in methylene chloride, a suspension was formed by adding trifluoromethanesulfonic anhydride, and the suspension was then cooled to 5° C. With the mixture being stirred vigorously, pyridine was then added dropwise and the mixture stirred for a further one hour. Water was added, the reaction halted, and the organic layer was separated. The aqueous layer was extracted with dichloromethane and this extract was combined with the organic layer, which was subsequently washed with dilute hydrochloric acid, a saturated aqueous solution of sodium bicarbonate, water, and then a saturated aqueous solution of sodium chloride before being dried over anhydrous sodium sulfate. The solvent was removed by evaporation, and the product purified by silica gel column chromatography (hexane) to yield 1-fluoro-7-propyl-9,10-dihydrophenanthren-2-yl trifluoromethanesulfonate. This compound was combined with 3,4,5-trifluorophenylboric acid (which was produced by a reaction between a Grignard reagent prepared from 3,4,5-trifluorobromobenzene and magnesium, and trimethylborate, followed by hydrolysis with dilute hydrochloric acid), tetrakis(triphenylphosphine)palladium (0) and potassium phosphate in a dimethylformamide solvent and was then stirred for 10 hours at 80° C. The reaction mixture was then cooled to room temperature, water was added, the mixture was extracted with toluene, and the resulting organic layer was washed sequentially with water and a saturated aqueous solution of sodium chloride, and then dried over anhydrous sodium sulfate. The crude product obtained by removal of the solvent by evaporation was purified by silica gel column chromatography (hexane) and then recrystallized 3 times from ethanol to yield 8-fluoro-2-propyl-7-(3,4,5-trifluorophenyl)-9,10-dihydrophenanthrene. The separated 3-fluoro-7-propyl-9,10-dihydrophenanthren-2-ol was also reacted in the same manner and yielded 6-fluoro-2-propyl-7-(3,4,5-trifluorophenyl)-9,10-dihydrophenanthrene.

reactant | 1-fluoro-7-propyl-9,10-dihydrophenanthren-2-ol | FC1=C(C=CC=2C3=CC=C(C=C3CCC12)CCC)O | C17H17FO
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-fluoro-7-propyl-9,10-dihydrophenanthren-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=2CCC3=CC(=CC=C3C2C=C1)CCC)F)(F)F | C18H16F4O3S
